US09290487B2
Step 1 Synthesis of 7-bromo-5-fluoro-1-benzofuran
Bromoacetaldehyde dimethyl acetal (1.17 mL, 10.0 mmol) and a catalytic amount of sodium iodide were added to a solution (25 mL) of 2-bromo-4-fluorophenol (0.548 mL, 5.00 mmol) and potassium carbonate (1.38 g, 10.0 mmol) in DMF, and stirred at 80° C. overnight. The solvent was distilled away under reduced pressure. The residue was diluted with ethyl acetate, washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane/ethyl acetate). The resulting compound (1.12 g, 4.01 mmol) was dissolved in chlorobenzene (5 mL), and added at 120° C. to a solution (5 mL) of a polyphosphoric acid (1.5 g) in chlorobenzene. After the reaction solution was stirred at 120° C. overnight, the solvent was distilled away under reduced pressure. To the residue, ethyl acetate and water were added. Under ice-cooling, this was poured into a 1 N sodium hydroxide aqueous solution, and stirred. After that, the insoluble material was filtered off, and extraction was performed with ethyl acetate. The organic phase was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane) to thus obtain the title compound.

reactant | Bromoacetaldehyde dimethyl acetal | 10.0 mmol, 1.17 mL | COC(CBr)OC | C4H9BrO2
reactant | sodium iodide | [I-].[Na+]
reactant | 2-bromo-4-fluorophenol | 5.00 mmol, 25 mL | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | chlorobenzene | 5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 7-bromo-5-fluoro-1-benzofuran | yield: 20% | BrC1=CC(=CC=2C=COC21)F | C8H4BrFO
